### PR TITLE
[Merged by Bors] - feat: In a ring, sets act on submodules

### PR DESCRIPTION
**Pull request by jjaassoonn**
If $M$ is an $R$-module, $N$ a submodule and $S$ a subset of $R$. Then we can define $S \cdot N$ to be the smallest submodule containing all $s \cdot n$ where $s \in S$ and $n \in N$

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 1]
```diff
@@ -281,4 +282,115 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
 
+section
+
+variable [Semiring R] [AddCommMonoid M] [Module R M]
+
+/--
+let `S ⊆ R` be a set and `N ≤ M` be a submodule, then `S • N` is the smallest submodule containing
+all `r • n` where `r ∈ S` and `n ∈ N`.
+-/
+protected def pointwiseSetSMulSubmodule : HSMul (Set R) (Submodule R M) (Submodule R M) where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:293]:
```suggestion
protected def pointwiseSetSMulSubmodule : SMul (Set R) (Submodule R M) where
```

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 2]
```diff
@@ -281,4 +282,115 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+lemma set_smul_submodule_le (p : Submodule R M)
+  (closed_under_smul : ∀ ⦃r : R⦄ ⦃n : M⦄, r ∈ s → n ∈ N → r • n ∈ p) :
+  s • N ≤ p :=
+sInf_le closed_under_smul
+
+lemma set_smul_submodule_eq_of_le (p : Submodule R M)
+  (closed_under_smul : ∀ ⦃r : R⦄ ⦃n : M⦄, r ∈ s → n ∈ N → r • n ∈ p)
+  (le : p ≤ s • N) :
+  s • N = p :=
+le_antisymm (set_smul_submodule_le s N p closed_under_smul) le
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:313]: This indentation is the Lean 3 style, not the Lean 4 style, which would indent all but the first line by an extra level.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: hopefully, indentation now is okay now

**Comment by alreadydone** [comment]
I think [in locale Pointwise](https://github.com/leanprover-community/mathlib4/blob/20fb81821d7bb3b3bff5da563638068af7b19108/Mathlib/Data/Set/Pointwise/Basic.lean#L327) this is even a MulAction.

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 3]
```diff
@@ -281,4 +282,115 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+section
+
+variable [Semiring R] [AddCommMonoid M] [Module R M]
+
+/--
+let `S ⊆ R` be a set and `N ≤ M` be a submodule, then `S • N` is the smallest submodule containing
+all `r • n` where `r ∈ S` and `n ∈ N`.
+-/
+protected def pointwiseSetSMulSubmodule : SMul (Set R) (Submodule R M) where
+  smul s N := sInf { p | ∀ ⦃r : R⦄ ⦃n : M⦄, r ∈ s → n ∈ N → r • n ∈ p }
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:294]: Is this is the same as the following?
```suggestion
  smul s N := ⨅ r, r • N
```

Comment (eric-wieser) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:294]: Or perhaps
```suggestion
  smul s N := sInf <| (. • N) '' s
```
If you don't like the bInf

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:294]: They are the same, but I think defining it to be `sInf ...` is very intuitive, it is the smallest submodule containing all the `r \bu n` for `r \in s` and `n \in N`

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:294]: Instead of changing definition, maybe I just prove that `sInf { p | ∀ ⦃r : R⦄ ⦃n : M⦄, r ∈ s → n ∈ N → r • n ∈ p }` is ⨆ r ∈ s, r • N?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:294]: Correct me if I am wrong here:
`Submodule.pointwiseDistribMulAction` wants `[SMulCommClass α R M]`, so when we write down `r • N`, we need a type class `SMulCommClass R R M`, but `R` is assumed to be semiring here not necessarily commutative, so we can't write `r • N`?

**Comment by jjaassoonn** [comment]
> I think [in locale Pointwise](https://github.com/leanprover-community/mathlib4/blob/20fb81821d7bb3b3bff5da563638068af7b19108/Mathlib/Data/Set/Pointwise/Basic.lean#L327) this is even a MulAction.

proving `mul_smul` is longer than I expected, I think it's better to do it in another PR

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 4]
```diff
@@ -281,4 +282,148 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+      rw [mem_set_smul_submodule] at hm
+      obtain ⟨c, hc1, rfl⟩ := hm
+      delta Finsupp.sum
+      simp only [AddSubmonoid.coe_finset_sum, coe_toAddSubmonoid, SetLike.val_smul]
+      rw [Finset.smul_sum]
+      refine Submodule.sum_mem _ ?_
+      intro r' hr'
+      rw [← mul_smul]
+      apply mem_set_smul_submodule_of_mem_mem (mem2 := (c _).2)
+      exact ⟨r, r', hr, hc1 hr', rfl⟩)
```
Comment (jjaassoonn) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:423]: Another justification of using `sInf` is this proof that `s \bu t \bu N = (s * t) \bu N` is simple when we know that set-smul-submodule is the smallest of something

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:294]: So I proved this
```lean
lemma set_smul_submodule_eq_iSup [SMulCommClass R R M] :
    s • N = ⨆ (r ∈ s), r • N := ...
```

If we define it as `sInf`, then we don't need `SMulCommClass R R M` assumption

**Comment by jjaassoonn** [comment]
> I think [in locale Pointwise](https://github.com/leanprover-community/mathlib4/blob/20fb81821d7bb3b3bff5da563638068af7b19108/Mathlib/Data/Set/Pointwise/Basic.lean#L327) this is even a MulAction.

It is a distributive multicative action! Thanks for pointing this out.

**Comment by alreadydone** [comment]
> It is a distributive multicative action! Thanks for pointing this out.

Thanks for confirming! If `Set R` were a Semiring I think we can also show it's a [Module](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Basic.html#Module), but it's not (distributivity doesn't hold).

**Comment by eric-wieser** [comment]
> ! If `Set R` were a Semiring

It is when using the SetSemiring alias

**Comment by eric-wieser** [comment]
I think we might already have a `Module (Ideal R) (Submodule R M)` instance; is this new instance the same a that one composed with Ideal.span?

**Comment by alreadydone** [comment]
> It is when using the SetSemiring alias

That's using union as addition, not pointwise addition inherited from addition on R.

> I think we might already have a Module (Ideal R) (Submodule R M) instance; is this new instance the same a that one composed with Ideal.span?

I think yes (and [loogle](https://loogle.lean-fro.org/?q=Module+%28Ideal+_%29+%28Submodule+_+_%29) found [Submodule.moduleSubmodule](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Operations.html#Submodule.moduleSubmodule)).

**Comment by jjaassoonn** [comment]
> > It is when using the SetSemiring alias
> 
> 
> 
> That's using union as addition, not pointwise addition inherited from addition on R.
> 
> 
> 
> > I think we might already have a Module (Ideal R) (Submodule R M) instance; is this new instance the same a that one composed with Ideal.span?
> 
> 
> 
> I think yes (and [loogle](https://loogle.lean-fro.org/?q=Module+%28Ideal+_%29+%28Submodule+_+_%29) found [Submodule.moduleSubmodule](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Ideal/Operations.html#Submodule.moduleSubmodule)). (Should we restrict to CommSemiring?)

Should I re-implement this in terms of span composing with soul then?

**Comment by eric-wieser** [comment]
I suspect this has the same problem as you remarked about for the case of non-commutative rings `R`

**Comment by eric-wieser** [comment]
Do you actually care about the non-commutative case?

**Comment by jjaassoonn** [comment]
> Do you actually care about the non-commutative case?

No,not really

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 5]
```diff
@@ -281,4 +284,220 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
 
 end
 
+section
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:287]: Can you name this section, and update the "#implementation notes" in the module docstring to make it clear that the lemmas from this point on are not "direct copies of lemmas from
`GroupTheory/Submonoid/Pointwise.lean`."?

**Comment by eric-wieser** [comment]
> > Do you actually care about the non-commutative case?
> 
> No,not really. But we should have it work for noncomm cases in case other people care about them right?

Only if we think the generalization is reasonable; for instance you say that

> Submodule.pointwiseDistribMulAction` wants `[SMulCommClass α R M]`, so when we write down `r • N`, we need a type class `SMulCommClass R R M`, but `R` is assumed to be semiring here not necessarily commutative, so we can't write `r • N`?

One option is of course to redefine `r • N` as the smallest submodule with the property you describe, but then it is no longer the case that it is equal to `r • (N : Set M)`. Arguably, the value in _that_ definition in the first place is that it coincides.

Maybe it's obvious to you that this generalization is the right one, but in cases where it's not its often best to leave the generalization for someone who does care about it, so that they can ensure the generalization goes in the right directions.

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 5 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: done

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 6]
```diff
@@ -277,4 +289,221 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+lemma set_smul_submodule_mono_right {p q : Submodule R M} (le : p ≤ q) :
+    s • p ≤ s • q :=
+  set_smul_submodule_le _ _ _ fun _ _ hr hm => mem_set_smul_submodule_of_mem_mem (mem1 := hr)
+    (mem2 := le hm)
+
+lemma set_smul_submodule_mono_left {s t : Set R} (le : s ≤ t) :
+    s • N ≤ t • N :=
+  set_smul_submodule_le _ _ _ fun _ _ hr hm => mem_set_smul_submodule_of_mem_mem (mem1 := le hr)
+    (mem2 := hm)
+
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:336]: I think there should be a `s • p ≤ t • q` lemma for `s ≤ t` and `p ≤ q`.

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 7]
```diff
@@ -277,4 +289,221 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+    (smul₁ : ∀ (r : R) ⦃m : M⦄, prop m → prop (r • m))
+    (add : ∀ ⦃m₁ m₂ : M⦄, prop m₁ → prop m₂ → prop (m₁ + m₂))
+    (zero : prop 0) :
+    prop x :=
+  set_smul_submodule_le s N {
+    carrier := {m : M | prop m}
+    add_mem' := λ {x y} ↦ @add x y
+    zero_mem' := zero
+    smul_mem' := smul₁
+  } smul₀ hx
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:349]:
```suggestion
  set_smul_submodule_le s N
  { carrier := {m : M | prop m}
    add_mem' := λ {x y} ↦ @add x y
    zero_mem' := zero
    smul_mem' := smul₁ }
    smul₀ hx
```
I think the style guideline still prefers this?

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 8]
```diff
@@ -277,4 +289,221 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+    rw [set_smul_submodule_eq_submodule_map] at h
+    obtain ⟨c, hc, rfl⟩ := h
+    exact ⟨c, hc, rfl⟩
+
+  · rw [mem_set_smul_submodule_def, Submodule.mem_sInf]
+    rintro ⟨c, hc1, rfl⟩ p hp
+    simp only [Finsupp.sum, AddSubmonoid.coe_finset_sum, coe_toAddSubmonoid, SetLike.val_smul]
+    exact Submodule.sum_mem _ λ r hr ↦ hp (hc1 hr) (c _).2
+
+@[simp] lemma mem_empty_smul_submodule (x : M) : x ∈ (∅ : Set R) • N ↔ x = 0 := by
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:393]: I think a better simp lemma would be `(∅ : Set R) • N = ⊥` (or both if there would be DTT issues)

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 9]
```diff
@@ -277,4 +289,221 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+      rw [iSup_subtype', ← sSup_range]
+      exact le_sSup ⟨⟨r, hr⟩, rfl⟩) ⟨_, hm, rfl⟩) <| by
+    rw [iSup_subtype', ← sSup_range, sSup_le_iff]
+    rintro _ ⟨⟨x, hx⟩, rfl⟩ _ ⟨y, hy, rfl⟩
+    exact mem_set_smul_submodule_of_mem_mem (mem1 := hx) (mem2 := hy)
+
+/-- subset of a ring has a distributive multiplicative action on its submodules-/
+protected def pointwiseSetDistribMulActionSubmodule [SMulCommClass R R M] :
+    DistribMulAction (Set R) (Submodule R M) where
+  smul_zero s := show s • ⊥ = ⊥ from eq_bot_iff.mpr fun x hx => show x = 0 by
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:458]: I think `s • ⊥ = ⊥` should be separated out as a (simp) lemma since the simp normal form is `⊥` rather than `0`.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: added `set_smul_bot_submodule`

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 8 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: changed to `empty_smul_submodule`

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 7 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: thanks

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:344]: see `set_smul_submodule_le_of_le_le`

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 10]
```diff
@@ -277,4 +289,221 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+lemma mem_set_smul_submodule_def (x : M) :
+    x ∈ s • N ↔
+  x ∈ sInf { p : Submodule R M | ∀ ⦃r : R⦄ {n : M}, r ∈ s → n ∈ N → r • n ∈ p } := Iff.rfl
+
+lemma mem_set_smul_submodule_of_mem_mem {r : R} {m : M} (mem1 : r ∈ s) (mem2 : m ∈ N) :
+    r • m ∈ s • N := by
+  rw [mem_set_smul_submodule_def, mem_sInf]
+  exact fun _ h => h mem1 mem2
+
+lemma set_smul_submodule_le (p : Submodule R M)
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:316]: I added an `iff` version as `set_smul_submodule_le_iff`

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 11]
```diff
@@ -277,4 +289,236 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+    (by rintro r n (hr|hr) hn
+        · exact Submodule.mem_sup_left (mem_set_smul_submodule_of_mem_mem _ _ hr hn)
+        · exact Submodule.mem_sup_right (mem_set_smul_submodule_of_mem_mem _ _ hr hn))
+    (sup_le
+      (set_smul_submodule_mono_left _ le_sup_left)
+      (set_smul_submodule_mono_left _ le_sup_right))
+
+lemma span_smul_submodule {R' M' : Type*} [CommSemiring R'] [AddCommMonoid M'] [Module R' M']
+    (s : Set R') (N : Submodule R' M') :
+    (Ideal.span s : Set R') • N = s • N :=
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:507]: I think there should instead be a lemma showing that the action is equal to `Submodule.hasSMul'` for ideals, and this is then just `Submodule.ideal_span_singleton_smul`.

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:507]: `s` is not necessarily a singleton ... I agree that `I • N = (I : Set R') • N` is a useful lemma, but I'm not sure it helps with the proof ...

Comment (erdOne) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:507]: Do we not have `Ideal.span s • N = s • N`? We should also have such a lemma in any case.

Comment (YaelDillies) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:507]: Has this been addressed?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:506]: Is this lemma necessary, it is just two rewrites away
```lean
lemma span_smul_submodule'
    (s : Set R) (N : Submodule R M) :
    (Ideal.span s) • N = s • N := by
  rw [smul_eq_set_smul, Submodule.span_smul_submodule]
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 12]
```diff
@@ -110,6 +110,12 @@ theorem smul_le {P : Submodule R M} : I • N ≤ P ↔ ∀ r ∈ I, ∀ n ∈ N
   map₂_le
 #align submodule.smul_le Submodule.smul_le
 
+lemma smul_eq_set_smul :
+    I • N = (I : Set R) • N :=
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Operations.lean:114]:
```suggestion
@[simp, norm_cast]
lemma coe_set_smul : (I : Set R) • N = I • N :=
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 13]
```diff
@@ -2317,6 +2323,11 @@ instance moduleSubmodule : Module (Ideal R) (Submodule R M) where
   smul_zero := smul_bot
 #align submodule.module_submodule Submodule.moduleSubmodule
 
+lemma span_smul_submodule'
+    (s : Set R) (N : Submodule R M) :
+    (Ideal.span s) • N = s • N := by
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Operations.lean:2328]:
```suggestion
    Ideal.span s • N = s • N := by
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 14]
```diff
@@ -2317,6 +2323,11 @@ instance moduleSubmodule : Module (Ideal R) (Submodule R M) where
   smul_zero := smul_bot
 #align submodule.module_submodule Submodule.moduleSubmodule
 
+lemma span_smul_submodule'
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Ideal/Operations.lean:2326]:
```suggestion
@[simp]
lemma span_smul_submodule'
```

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:506]: Yes, because `smul_eq_set_smul` is an unfolding lemma.

Comment (erdOne) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:506]: Where is `smul_eq_set_smul`? And I'd argue that `span_smul_submodule'` is necessary and `span_smul_submodule` isn't if you only want to choose one.

Comment (erdOne) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:506]: And this should be called `span_set_smul_submodule` or `coe_span_set_submodule` if you want to keep it.

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:506]: Done, thanks for the naming suggestion.

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 15]
```diff
@@ -277,4 +289,236 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+lemma set_smul_submodule_mono_left {s t : Set R} (le : s ≤ t) :
+    s • N ≤ t • N :=
+  set_smul_submodule_le _ _ _ fun _ _ hr hm => mem_set_smul_submodule_of_mem_mem (mem1 := le hr)
+    (mem2 := hm)
+
+lemma set_smul_submodule_le_of_le_le {s t : Set R} {p q : Submodule R M}
+    (le_set : s ≤ t) (le_submodule : p ≤ q) : s • p ≤ t • q :=
+  le_trans (set_smul_submodule_mono_left _ le_set) <| set_smul_submodule_mono_right _ le_submodule
+
+lemma set_smul_submodule_inductionOn {prop : M → Prop} (x : M)
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:349]:
```suggestion
@[elab_as_elim]
lemma set_smul_submodule_inductionOn {prop : M → Prop} (x : M)
```

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 16]
```diff
@@ -277,4 +289,236 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
 
 end
 
+section set_acting_on_submodules
+
+variable [AddCommMonoid M] [Module R M]
+
+/--
+let `S ⊆ R` be a set and `N ≤ M` be a submodule, then `S • N` is the smallest submodule containing
+all `r • n` where `r ∈ S` and `n ∈ N`.
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:298]:
```suggestion
Let `s ⊆ R` be a set and `N ≤ M` be a submodule, then `s • N` is the smallest submodule containing
all `r • n` where `r ∈ s` and `n ∈ N`.
```

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 17]
```diff
@@ -277,4 +289,236 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+    · rintro r _ _ (rfl : _ = 0)
+      rw [smul_zero]
+    · rintro r m rfl
+      rw [smul_zero]
+    · rintro _ _ rfl rfl
+      rw [zero_add]
+    · rfl
+
+lemma singleton_set_smul_submodule_eq [SMulCommClass R R M] (r : R) :
+    ({r} : Set R) • N = (r • N : Submodule R M) := by
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:425]: Does this work?
```suggestion
    ({r} : Set R) • N = r • N := by
```

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 18]
```diff
@@ -277,4 +289,236 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+      obtain ⟨a, ha, b, hb, rfl⟩ := hm
+      rw [smul_add, add_eq_sup, Submodule.mem_sup]
+      exact ⟨r • a, mem_set_smul_submodule_of_mem_mem (mem1 := hr) (mem2 := ha),
+        r • b, mem_set_smul_submodule_of_mem_mem (mem1 := hr) (mem2 := hb), rfl⟩)
+    (sup_le_iff.mpr ⟨set_smul_submodule_mono_right _ le_sup_left,
+      set_smul_submodule_mono_right _ le_sup_right⟩)
+
+scoped[Pointwise] attribute [instance] Submodule.pointwiseSetDistribMulActionSubmodule
+
+lemma sup_set_smul_submodule_eq_sup (s t : Set R) :
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:495]:
```suggestion
lemma sup_set_smul_submodule (s t : Set R) :
```

**Review by erdOne — COMMENTED** [review]
If these lemmas are already in the `Submodule` namespace, maybe we don't need to repeat `submodule` in the lemma name?

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 19]
```diff
@@ -277,4 +289,229 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
 
 end
 
+section set_acting_on_submodules
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:292]: This should have a `/-! ### Subheading -/` and perhaps a few sentences summarizing what this section is about.

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 20]
```diff
@@ -277,4 +289,229 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+    (smul₁ : ∀ (r : R) ⦃m : M⦄, prop m → prop (r • m))
+    (add : ∀ ⦃m₁ m₂ : M⦄, prop m₁ → prop m₂ → prop (m₁ + m₂))
+    (zero : prop 0) :
+    prop x :=
+  set_smul_le s N
+    { carrier := {m : M | prop m}
+      add_mem' := fun {x y} ↦ @add x y
+      zero_mem' := zero
+      smul_mem' := smul₁ }
+    smul₀ hx
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:363]: Can you generalize this to `{prop : (x : M) → x ∈ s • N → Prop` so that it works with `induction using`?

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 21]
```diff
@@ -277,4 +289,229 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+
+lemma set_smul_eq_map [SMulCommClass R R N] :
+    s • N =
+    Submodule.map
+      (N.subtype.comp (Finsupp.lsum R fun (r : R) ↦ ⟨⟨(r • .), smul_add r⟩, smul_comm _⟩))
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:368]: This map has a name:
```suggestion
      (N.subtype.comp (Finsupp.lsum R <| DistribMulAction.toLinearMap _ _))
```

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 22]
```diff
@@ -277,4 +289,229 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
 
+section set_acting_on_submodules
+
+variable [AddCommMonoid M] [Module R M]
+
+/--
+Let `s ⊆ R` be a set and `N ≤ M` be a submodule, then `s • N` is the smallest submodule containing
+all `r • n` where `r ∈ s` and `n ∈ N`.
+-/
+protected def pointwiseSetSMul : SMul (Set R) (Submodule R M) where
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:300]: This generalizes to
```suggestion
protected def pointwiseSetSMul : SMul (Set S) (Submodule R M) where
```
right? How may of the other results also generalize for free?

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 21 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: Thanks!

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 20 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: Done in[28d6404](https://github.com/leanprover-community/mathlib4/pull/7140/commits/28d64046205bb588e7dc738321c3bb835505708d)

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 19 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:314]: done in [28d6404](https://github.com/leanprover-community/mathlib4/pull/7140/commits/28d64046205bb588e7dc738321c3bb835505708d)

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 22 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:322]: What is `S` here? Is it another ring of which `M` is a module?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:322]: Everything upto induction principal should work mutatis mutandis. My hunch is that if we further assume `[SMulCommClass R S M]` then everything should work?

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:322]: So the generalized principal is this 
```lean
variable {s N} in
@[elab_as_elim]
lemma set_smul_inductionOn {motive : (x : M) → (_ : x ∈ s • N) → Prop}
    (x : M)
    (hx : x ∈ s • N)
    (smul₀ : ∀ ⦃r : S⦄ ⦃n : M⦄ (mem₁ : r ∈ s) (mem₂ : n ∈ N),
      motive (r • n) (mem_set_smul_of_mem_mem mem₁ mem₂))
    (smul₁ : ∀ (r : R) ⦃m : M⦄ (mem : m ∈ s • N) ,
      motive m mem → motive (r • m) (Submodule.smul_mem _ r mem)) --
    (add : ∀ ⦃m₁ m₂ : M⦄ (mem₁: m₁ ∈ s • N) (mem₂ : m₂ ∈ s • N),
      motive m₁ mem₁ → motive m₂ mem₂ → motive (m₁ + m₂) (Submodule.add_mem _ mem₁ mem₂))
    (zero : motive 0 (Submodule.zero_mem _)) :
    motive x hx :=
  let ⟨_, h⟩ := set_smul_le s N
    { carrier := { m | ∃ (mem : m ∈ s • N), motive m mem },
      zero_mem' := ⟨Submodule.zero_mem _, zero⟩
      add_mem' := fun ⟨mem, h⟩ ⟨mem', h'⟩ ↦ ⟨_, add mem mem' h h'⟩
      smul_mem' := fun r x ⟨mem, h⟩ ↦ ⟨_, smul₁ r mem h⟩ }
    (fun _ _ mem mem' ↦ ⟨mem_set_smul_of_mem_mem mem mem', smul₀ mem mem'⟩) hx
  h
```

But to change the next lemma 
```lean
lemma set_smul_eq_map [SMulCommClass R R N] [Module S N]  [SMulCommClass S R N] :
    s • N =
    Submodule.map
      (N.subtype.comp (Finsupp.lsum R <| DistribMulAction.toLinearMap _ _))
      (Finsupp.supported N R s) := by
```
I need `N` to be both a `R`-submodule and `S`-submodule, so I included `[Module S N]`, can I somehow say this module structure is restricted from `[Module S M]`

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:322]: Is perhaps [`Subbimodule`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Bimodule.html#Subbimodule.mk)

Comment (eric-wieser) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:322]: I think I would just leave this one ungeneralized

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: In [7d37123](https://github.com/leanprover-community/mathlib4/pull/7140/commits/7d371236ab626d2912422f17efab1875d1b68609) and [eecb383](https://github.com/leanprover-community/mathlib4/pull/7140/commits/eecb383e36ab97c536af331630659391d8d2df5b), the generalization has been done. Things that are not generalized were left some comments explaining why they can't or won't be generalized

Comment (jjaassoonn) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean]: If we generalize so that `r • N` makes sense for all `r : S`, then `Submodule.singleton_set_smul`
  and `Submodule.singleton_set_smul` can be generalized as well. We can prove `x ∈ ({r} : Set S) • N ↔ ∃ (m : M), m ∈ N ∧ x = r • m` but we can't say `({r} : Set R) • N = r • N`

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 23]
```diff
@@ -277,4 +289,290 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+      exact ⟨m₁ + m₂, Submodule.add_mem _ h₁ h₂, by aesop⟩
+    · exact ⟨0, Submodule.zero_mem _, by aesop⟩
+  · rintro ⟨m, hm, rfl⟩
+    aesop
+
+-- Note that this can't be generalized to `Set S`, because even though `SMulCommClass R R M` implies
+-- `SMulComm R R N` for all `R`-submodules `N`, `SMulCommClass R S N` for all `R`-submodules `N`
+-- does not make sense. If we just focus on `R`-submodules that are also `S`-submodule, then this
+-- should be true.
+/-- subset of a ring has a multiplicative action on its submodules-/
```
Comment (erdOne) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:503]:
```suggestion
/-- Subset of a ring has a multiplicative action on its submodules. -/
```
This sentence sounds weird to me. In particular "its submodules" seems to be referring to "submodules of R".
I don't have a better alternative though so I'm fine if this is not changed.

**Comment by erdOne** [comment]
LGTM modulo the minor comment above
maintainer merge

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean (hunk 23 above)
Comment (jcommelin) [reply Mathlib/Algebra/Module/Submodule/Pointwise.lean:503]: How about
```suggestion
/-- A subset of a ring `R` has a multiplicative action on submodule of a module over `R`. -/
```

File: Mathlib/Algebra/Module/Submodule/Pointwise.lean [hunk 24]
```diff
@@ -277,4 +289,290 @@ scoped[Pointwise] attribute [instance] Submodule.pointwiseMulActionWithZero
...
+      exact ⟨m₁ + m₂, Submodule.add_mem _ h₁ h₂, by aesop⟩
+    · exact ⟨0, Submodule.zero_mem _, by aesop⟩
+  · rintro ⟨m, hm, rfl⟩
+    aesop
+
+-- Note that this can't be generalized to `Set S`, because even though `SMulCommClass R R M` implies
+-- `SMulComm R R N` for all `R`-submodules `N`, `SMulCommClass R S N` for all `R`-submodules `N`
+-- does not make sense. If we just focus on `R`-submodules that are also `S`-submodule, then this
+-- should be true.
+/-- A subset of a ring `R` has a multiplicative action on submodule of a module over `R`. -/
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Submodule/Pointwise.lean:503]: Ooops, I made a typo in my previous suggestion.
```suggestion
/-- A subset of a ring `R` has a multiplicative action on submodules of a module over `R`. -/
```

**Review by jcommelin — APPROVED** [review]
bors merge
